US08445501B2
4-[4-Methoxy-2-(2-methoxy-ethoxy)-phenyl]-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid ethyl ester
Starting from 4-chloro-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid ethyl ester and 2-[4-methoxy-2-(2-methoxy-ethoxy)-phenyl]-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (example A43) the title compound is obtained as colorless solid.

reactant | 4-chloro-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid ethyl ester | C(C)OC(=O)C1=CNC2=C1N=CN=C2Cl | C9H8ClN3O2
reactant | 2-[4-methoxy-2-(2-methoxy-ethoxy)-phenyl]-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | COC1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)OCCOC | C16H25BO5
product | 4-[4-Methoxy-2-(2-methoxy-ethoxy)-phenyl]-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid ethyl ester | C(C)OC(=O)C1=CNC2=C1N=CN=C2C2=C(C=C(C=C2)OC)OCCOC | C19H21N3O5
